US09328117B2
A mixture of compound ethyl 2-bromo-2-(2-(6-chloropyridazin-3-yl)hydrazono)acetate (1.25 g, 4 mmol) in 10 mL of isopropanol with 0.5 mL of triethylamine was refluxed for 1 h. The solution was evaporated and the residue was washed thoroughly with water to give product ethyl 6-chloro-[1,2,4]triazolo[4,3-b]pyridazine-3-carboxylate as a yellow solid (0.8 g, 67%). LRMS (M+H+) m/z: calcd 227.03; found 227. 1H NMR (300 MHz, CDCl3): δ 8.25-8.22 (d, J=9.6 Hz, 1H), 7.34-7.31 (d, J=9.6 Hz, 1H), 4.64-4.56 (q, 2H), 1.53-1.49 (t, 3H).

reactant | ethyl 2-bromo-2-(2-(6-chloropyridazin-3-yl)hydrazono)acetate | 4 mmol, 1.25 g | BrC(C(=O)OCC)=NNC=1N=NC(=CC1)Cl | C8H8BrClN4O2
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | ethyl 6-chloro-[1,2,4]triazolo[4,3-b]pyridazine-3-carboxylate | 0.8 g, 67% | ClC=1C=CC=2N(N1)C(=NN2)C(=O)OCC | C8H7ClN4O2
